US03957819
3-(m-Chlorophenyl)-2 -(3-hydroxypropylamino)-3H-indol-3-ol
3-(m-Chlorophenyl)-3-hydroxy-3H-indol-2-one (25.9 g., U.K. specification No. 1,125,671), xylene (400 ml.), 3-aminopropanol (15 g.) and toluene-p-sulphonic acid (150 mg.) were heated under reflux, with stirring, in an apparatus fitted with a water separator. After 24 hours, 6.9 ml. of water and 3-aminopropanol had been collected. The mixture was cooled and the xylene removed under reduced pressure leaving a yellow crystalline material which was recrystallised from ethyl acetate to give the title compound (14.33 g.), m.p. 164° to 165°C. (Found C, 64.45; H, 5.4; N, 8.85. C17H17Cl2N2O2 requires C, 64.75; H, 5.6; N, 8.7%).

reactant | 3-(m-Chlorophenyl)-3-hydroxy-3H-indol-2-one | ClC=1C=C(C=CC1)C1(C(NC2=CC=CC=C12)=O)O | C14H10ClNO2
reactant | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | 3-aminopropanol | 15 g | NCCCO | C3H9NO
reactant | toluene-p-sulphonic acid | 150 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 3-(m-Chlorophenyl)-2 -(3-hydroxypropylamino)-3H-indol-3-ol | 14.33 g | ClC=1C=C(C=CC1)C1(C(=NC2=CC=CC=C12)NCCCO)O | C17H17ClN2O2
